US04235969
Conjugation of G6PDH and N-(N'-ethyl,N'-(3'-carboxypropyl-1') 2-aminoethyl) p-acetylaminobenzamide
The following components were combined at a temperature between 0°-4°: G6PDH, 10.0 ml of ca. 2 mg/ml solution suspended in 0.055 M Tris-HCl buffer; Glucose-6-phosphate disodium salt, 100 mg; NADH, 200 mg; Carbitol, 3.0 ml.

reactant | Glucose-6-phosphate disodium | [Na+].[Na+].P(=O)([O-])([O-])OC[C@H]([C@H]([C@@H]([C@H](C=O)O)O)O)O
reactant | NADH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | Carbitol | CCOCCOCCO | C6H14O3
solvent | Tris-HCl | 0.055 M | C(C(CO)(CO)N)O.Cl
product | p-acetylaminobenzamide | C(C)(=O)NC1=CC=C(C(=O)N)C=C1 | C9H10N2O2
